* H:\esim_p\TMVD\TMVD.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 03/16/25 13:49:03

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
scmode1  SKY130mode		
SC1  Net-_SC1-Pad1_ in Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__pfet_01v8		
SC2  Net-_SC1-Pad1_ in GND GND sky130_fd_pr__nfet_01v8		
SC5  Net-_SC10-Pad2_ in Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__pfet_01v8		
SC7  Net-_SC1-Pad1_ in Net-_SC10-Pad2_ Net-_SC1-Pad1_ sky130_fd_pr__nfet_01v8		
SC9  Net-_SC10-Pad1_ Net-_SC10-Pad2_ Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__pfet_01v8		
SC10  Net-_SC10-Pad1_ Net-_SC10-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC13  Net-_SC13-Pad1_ Net-_SC10-Pad2_ Net-_SC10-Pad1_ Net-_SC10-Pad1_ sky130_fd_pr__pfet_01v8		
SC16  GND Net-_SC10-Pad2_ Net-_SC13-Pad1_ GND sky130_fd_pr__nfet_01v8		
SC3  Net-_SC3-Pad1_ in Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__pfet_01v8		
SC4  Net-_SC3-Pad1_ in GND GND sky130_fd_pr__nfet_01v8		
SC6  Net-_SC11-Pad2_ in Net-_SC3-Pad1_ Net-_SC3-Pad1_ sky130_fd_pr__pfet_01v8		
SC8  GND in Net-_SC11-Pad2_ GND sky130_fd_pr__nfet_01v8		
SC12  Net-_SC12-Pad1_ Net-_SC11-Pad2_ Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__pfet_01v8		
SC14  out Net-_SC13-Pad1_ Net-_SC12-Pad1_ Net-_SC12-Pad1_ sky130_fd_pr__pfet_01v8		
SC11  out Net-_SC11-Pad2_ GND GND sky130_fd_pr__nfet_01v8		
SC15  out Net-_SC13-Pad1_ GND GND sky130_fd_pr__nfet_01v8		
v1  Net-_SC1-Pad3_ GND DC		
v2  in GND pwl		
U1  in plot_v1		
U2  out plot_v1		

.end
