* h:\esim_p\tmvd\tmvd.cir

.lib "H:\esim\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt

* s c m o d e
xsc1 net-_sc1-pad1_ in net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 w=3 l=0.15
xsc2 net-_sc1-pad1_ in gnd gnd sky130_fd_pr__nfet_01v8 w=1 l=0.15
xsc5 net-_sc10-pad2_ in net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 w=3 l=0.15
xsc7 net-_sc1-pad1_ in net-_sc10-pad2_ net-_sc1-pad1_ sky130_fd_pr__nfet_01v8 w=1 l=0.15
xsc9 net-_sc10-pad1_ net-_sc10-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 w=3 l=0.15
xsc10 net-_sc10-pad1_ net-_sc10-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 w=1 l=0.15
xsc13 net-_sc13-pad1_ net-_sc10-pad2_ net-_sc10-pad1_ net-_sc10-pad1_ sky130_fd_pr__pfet_01v8 w=3 l=0.15
xsc16 gnd net-_sc10-pad2_ net-_sc13-pad1_ gnd sky130_fd_pr__nfet_01v8 w=1 l=0.15
xsc3 net-_sc3-pad1_ in net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 w=3 l=0.15
xsc4 net-_sc3-pad1_ in gnd gnd sky130_fd_pr__nfet_01v8 w=1 l=0.15
xsc6 net-_sc11-pad2_ in net-_sc3-pad1_ net-_sc3-pad1_ sky130_fd_pr__pfet_01v8 w=3 l=0.15
xsc8 gnd in net-_sc11-pad2_ gnd sky130_fd_pr__nfet_01v8 w=1 l=0.15
xsc12 net-_sc12-pad1_ net-_sc11-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 w=3 l=0.15
xsc14 out net-_sc13-pad1_ net-_sc12-pad1_ net-_sc12-pad1_ sky130_fd_pr__pfet_01v8 w=3 l=0.15
xsc11 out net-_sc11-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 w=1 l=0.15
xsc15 out net-_sc13-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 w=1 l=0.15
v1 net-_sc1-pad3_ gnd  dc 1.5
v2  in gnd pwl(0 0 10n 0 10.01n 0.75 20n 0.75 20.01n 1.5 30n 1.5 30.01n 0)
* u1  in plot_v1
* u2  out plot_v1
.tran 0.01e-09 30e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
